US08492582B2
Under ice-cooling, oxalyl chloride (0.23 mL) was added to a solution mixture of 5-phenylpyridine-3-carboxylic acid (0.48 g) in tetrahydrofuran (4.8 mL) and N,N-dimethylformamide (0.010 mL), followed by stirring at room temperature for 40 minutes. The reaction mixture was added to a solution mixture of methyl 2-amino-4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)benzoate (0.80 g) in tetrahydrofuran (8.0 mL) and pyridine (0.44 mL) under ice-cooling, followed by stirring at room temperature for 1 hour and 10 minutes. Ethyl acetate and water were added to the reaction mixture. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 85-70% hexane/ethyl acetate] to obtain 0.86 g of methyl 4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate as a white solid.

reactant | oxalyl chloride | 0.23 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-phenylpyridine-3-carboxylic acid | 0.48 g | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)O | C12H9NO2
reactant | methyl 2-amino-4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)benzoate | 0.80 g | NC1=C(C(=O)OC)C=CC(=C1)C1=C(C=CC=C1)N(CC)C(=O)OC(C)(C)C | C21H26N2O4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4.8 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.010 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
solvent | pyridine | 0.44 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | methyl 4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.86 g | C(C)(C)(C)OC(=O)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)OC)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)CC | C33H33N3O5
